2113-07-02 10:03:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2113-7-1**] 02:00 PM
   tripple lumen PICC line. Back flow from all three ports noted.
 INVASIVE VENTILATION - START [**2113-7-1**] 03:01 PM
 EKG - At [**2113-7-1**] 03:30 PM
 BLOOD CULTURED - At [**2113-7-1**] 09:08 PM
 ARTERIAL LINE - START [**2113-7-1**] 09:42 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2113-7-1**] 06:30 PM
   Vancomycin - [**2113-7-1**] 06:50 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-7-1**] 03:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-7-2**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 60 (60 - 71) bpm
   BP: 153/53(88) {124/37(65) - 166/53(88)} mmHg
   RR: 13 (10 - 30) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 65 Inch
           Total In:
                                                                    746 mL
                                                                  1,009 mL
   PO:
           TF:
   IVF:
                                                                    684 mL
                                                                    576 mL
   Blood products:
                                                                     63 mL
                                                                    313 mL
   Total out:
                                                                  1,925 mL
                                                                    388 mL
   Urine:
                                                                    585 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,179 mL
                                                                    621 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 380 (380 - 381) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 23 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.50/37/108/29/5
   Ve: 7.4 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Gen intubated and sedated
   Heent ETT, perrl 2 cmm
   Cv: RR, sys m RUSB
   Chest: [**Month (only) 453**] BS bases with  fair air movement , no wheeze,
   Abd: soft NT +BS
   Ext: 1 + edema
   Neuro: min arousable on propafol
   Labs / Radiology
   9.4 g/dL
   308 K/uL
   124 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.3 mEq/L
   45 mg/dL
   111 mEq/L
   150 mEq/L
   28.2 %
   12.5 K/uL
        [image002.jpg]
                             [**2113-7-1**]  03:10 PM
                             [**2113-7-1**]  08:41 PM
                             [**2113-7-1**]  08:51 PM
                             [**2113-7-2**]  06:26 AM
                             [**2113-7-2**]  06:42 AM
   WBC
   12.2
   12.2
   12.5
   Hct
   26.6
   25.7
   28.2
   Plt
   282
   292
   308
   Cr
   0.8
   0.9
   TropT
   0.18
   TCO2
   31
   30
   Glucose
   157
   124
   Other labs: PT / PTT / INR:15.0/23.0/1.3, CK / CKMB /
   Troponin-T:23/4/0.18, ALT / AST:22/21, Alk Phos / T Bili:107/1.1,
   Differential-Neuts:94.8 %, Lymph:2.3 %, Mono:2.6 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:370 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   83 yr old woman tx from OSH for resp failure, ? endobronchial lesion
   1.             Resp Failure: intubated for progressive inc in work of
   breathing but also to facilitate transfer. Etiology could be weakness-
   given long hosp course, anatomic with malacia and endobrionchial lesion
   CHF is also possible, last Echo was pre op Once we sort out more
   history and get imaging we will get her over to PSV as able and see how
   much work she can do on her own.
                  Check NIF, send sputum, cover with Vanco Meropenem,
   chest Ct tonight, Echo, try for PSV
   2.             Right Lung endobronchial lesion: obtain chest CT, NPO
   for rigid bronch in AM. Hold anticoag
   3.           AVR: unclear post op function, plan echo, no acute
   diuresis,
   4.            Afib: came on nicardipine drip, hold, convert to po b
   blockers
   5.            Anemia: chest tube possible source of blood loss, guaic
   all stools, serial HCTs
   6.             Bacteremia: single + blood cx on [**6-19**] at OSH- will
   repeat cx here, if possible PIV
   7.             Afib: on IV nicardipine, will try to switch to something
   po
   ICU Care
   Nutrition: NPO for bronch
   Glycemic Control:
   Lines:
   PICC Line - [**2113-7-1**] 02:00 PM
   Arterial Line - [**2113-7-1**] 09:42 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:
   VAP: HOB and chlorhex
   Communication:  daughters
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2113-07-03 08:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Free water flushes changed to D5W IV
   - ETT repositioned
   - Consented for rigid bronch in OR tmrw, tube feeds stopped past MN
   - Unable to obtain cx data beyond 1 week ago. Call [**Telephone/Fax (1) 7234**] to
   speak to micro tmrw (supervisor = [**Doctor Last Name 121**])
   - Only able to place PIV x 1 so PICC not pulled. LUE swelling distal to
   PICC; concern for clot. LUE U/S ordered for AM.
   - PM Hct stable.
   - Given elevated BP, lisinopril increased to 5mg and metoprolol
   increased to 75mg [**Hospital1 **].
   - This AM, [**7-1**] Bcx growing GPC in pairs and chains
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-7-2**] 08:36 PM
   Meropenem - [**2113-7-3**] 12:32 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-7-3**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 60 (60 - 61) bpm
   BP: 182/61(102) {149/45(81) - 185/61(103)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 65 Inch
             Total In:
                                                                  3,109 mL
                                                                  1,086 mL
   PO:
             TF:
                                                                    188 mL
                                                                     26 mL
   IVF:
                                                                  2,259 mL
                                                                  1,000 mL
   Blood products:
                                                                    313 mL
   Total out:
                                                                    958 mL
                                                                    480 mL
   Urine:
                                                                    920 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,151 mL
                                                                    606 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 394 (332 - 415) mL
   PS : 15 cmH2O
   RR (Spontaneous): 20
   PEEP: 7 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   SpO2: 97%
   ABG: 7.52/35/129/25/6
   Ve: 7.9 L/min
   PaO2 / FiO2: 322
   Physical Examination
   Gen: Intubated
   Cardiovascular: Systolic mm
   Respiratory / Chest: Bronchial
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No edema
   Skin:  Warm
   Neurologic: Responds to questions and commands.
   Labs / Radiology
   343 K/uL
   10.0 g/dL
   173 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.8 mEq/L
   42 mg/dL
   107 mEq/L
   142 mEq/L
   30.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2113-7-1**]  03:10 PM
                             [**2113-7-1**]  08:41 PM
                             [**2113-7-1**]  08:51 PM
                             [**2113-7-2**]  06:26 AM
                             [**2113-7-2**]  06:42 AM
                             [**2113-7-2**]  11:46 AM
                             [**2113-7-2**]  03:57 PM
                             [**2113-7-3**]  04:23 AM
                             [**2113-7-3**]  04:44 AM
   WBC
   12.2
   12.2
   12.5
   11.5
   11.5
   Hct
   26.6
   25.7
   28.2
   30.5
   30.5
   Plt
   282
   292
   308
   347
   343
   Cr
   0.8
   0.9
   0.9
   0.9
   TropT
   0.18
   TCO2
   31
   30
   29
   30
   Glucose
   157
   124
   187
   173
   Other labs: PT / PTT / INR:15.1/28.1/1.3, CK / CKMB /
   Troponin-T:23/4/0.18, ALT / AST:22/21, Alk Phos / T Bili:107/1.1,
   Differential-Neuts:91.9 %, Lymph:3.2 %, Mono:4.7 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:370 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   [**7-1**] Bcx (PICC): GPC in pairs and chains
   [**7-1**] Urine legionella neg
   [**7-1**] Ucx negative.
   CXR with R apical PTX
   Assessment and Plan
   83F s/p AVR, with post-op course complicated by respiratory failure [**2-13**]
   pulmonary secretions, recurrent bilateral pleural effusions requiring
   thoracentesis, and concern for mass compressing right mainstem
   bronchus.
   .
   # Respiratory failure - likely multifactorial, with clear concern for
   hospital acquired pneumonia given leukocytosis and thick secretions on
   previous bronchoscopy.  Unclear why she was on meropenem only, as no
   sensitivities from prior bronchoscopy available presently.  ddx also
   concerning for post-obstructive PNA vs collapse, mild volume overload,
   PTX, and PE, though she has been on coumadin (without clearly
   therapeutic INRs).
   - cont vancomycin, meropenem to cover for HAP pending OSH
   sensitivities.
   - obtain sputum culture.
   - taper steroids (no known copd diagnosis) -> methylpred 40mg [**Hospital1 **]
   today.
   - chest tube to suction given PTX on CXR
   - f/u chest tube output.
   - aggresive pulmonary toilet.
   - f/u IP/thoracics recs: prelim report from rigid bronch without
   obvious obstruction or collapse
   - recheck CXR as ETT pulled back
   .
   # Bacteremia - Single OSH blood culture dated [**6-19**] from "line" reported
   +staph on [**6-25**].  no subsequent blood cultures available. Now [**7-1**] bcx
   growing GPC in pairs/chains. No stigmata of endocarditis at this time.
   - Send surveillance bcx
   - Obtain complete OSH culture data
   - Repeat TTE to evaluate for vegetation.
   - Pull PICC
   - Place peripherals and attempt line holiday
 otherwise central line
   .
   # S/p AVR with CHF
 tissue valve. mild volume overload on CXR, but
   otherwise, clinically euvolemic.  last lasix dose at noon today.  given
   prosthetic AVR, and acute bleeding, with plan for bronchoscopy, will
   hold anticoagulation for now.
   - hold off on lasix for now given contrast load above.
   - continue metoprolol 50mg po bid and titrate up prn.
   - repeat TTE here given bacteremia.
   - continue aspirin now, ACE in AM.
   - wean off nicardipine
   - hold coumadin for now given falling HCT and plan for bronchoscopy
   with biopsy
   # H/o AFib - on amiodarone as outpatient, though not receiving this at
   time of transfer.  currently in normal sinus rythym on metoprolol.
   - restart home regimen of amiodarone 200mg po qdaily in am.
   - continue metoprolol for now (home dose of Toprolol 200mg daily)
   - hold coumadin for now (CHADs = [**2-14**]), given falling HCT and plan for
   bronchoscopy with biopsy
   # Anemia - baseline HCT unknown, per family, pt with h/o "bleeding from
   GI system" which was evaluated by GI ~2y ago, with no clear source.
   HCT 32 by report upon discharge, 26 -> 28 with s/p transfusion.  no
   recent groin access (s/p LHC [**5-31**]) to suggest RP bleed.  most
   concerning for ongoing bleeding from right hemothorax although chest
   tube drainage not very bloody.
   - guaiac stools.
   - follow chest tube output.
   - f/u hemolysis labs (given valve).
   - [**Hospital1 **] hct
   # CRI - by report, currently cre 0.8.  with metabolic alkalosis per
   ABG.  no clear diarrhea.  not clearly contracted on exam, though has
   been getting lasix, likely poor nutrtion
   - Vt weaned from 650 to 550.
   - hold lasix for tonight.
   # hypernatremia - likely volume depleted given intubation; improved
   with D5W.
   - Cont D5W IVF at 50 cc/h
   - [**Hospital1 **] Na check
   # DM - no h/o DM per family, but on SSI at OSH, likely [**2-13**] steroids.
   FSG controlled overnight while NPO.
   - continue HISS.
   - wean SSI as steroids are tapered.
   #  HTN
 Persistent elevated BP off nicardipine gtt.
   - Titrate up metoprolol, lisinopril back to home doses as tolerated
   - Cont amlodipine
   ICU Care
   Nutrition: Hold TF for possible extubation
   Glycemic Control:
   Lines:
   PICC Line - [**2113-7-1**] 02:00 PM
 need to D/C
   Arterial Line - [**2113-7-1**] 09:42 PM
   18 Gauge - [**2113-7-2**] 06:51 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2113-07-03 09:17:00 Physician Attending Progress Note
Chief Complaint: resp failure,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - to OR this AM for rigid broinch
   - concentric constriction of bronch intermed.
   - no endobronchial mass
   - biopsies of  right hilar
   Blood cultures + GPCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-7-2**] 08:36 PM
   Meropenem - [**2113-7-3**] 12:32 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-7-3**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 60 (60 - 61) bpm
   BP: 182/61(102) {149/45(81) - 185/61(103)} mmHg
   RR: 19 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 65 Inch
             Total In:
                                                                  3,109 mL
                                                                  1,096 mL
   PO:
             TF:
                                                                    188 mL
                                                                     26 mL
   IVF:
                                                                  2,259 mL
                                                                  1,009 mL
   Blood products:
                                                                    313 mL
   Total out:
                                                                    958 mL
                                                                    480 mL
   Urine:
                                                                    920 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,151 mL
                                                                    616 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 394 (332 - 415) mL
   PS : 15 cmH2O
   RR (Spontaneous): 20
   PEEP: 7 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   SpO2: 97%
   ABG: 7.52/35/129/25/6
   Ve: 7.9 L/min
   PaO2 / FiO2: 322
   Physical Examination
   Gen intubated and sedated
   Heent ETT, perrl 2 cmm
   Cv: RR, sys m RUSB
   Chest: ++wheezes
   Abd: soft NT +BS
   Ext: 1 + edema
   Neuro: min arousable on propafol
   Labs / Radiology
   10.0 g/dL
   343 K/uL
   173 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.8 mEq/L
   42 mg/dL
   107 mEq/L
   142 mEq/L
   30.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2113-7-1**]  03:10 PM
                             [**2113-7-1**]  08:41 PM
                             [**2113-7-1**]  08:51 PM
                             [**2113-7-2**]  06:26 AM
                             [**2113-7-2**]  06:42 AM
                             [**2113-7-2**]  11:46 AM
                             [**2113-7-2**]  03:57 PM
                             [**2113-7-3**]  04:23 AM
                             [**2113-7-3**]  04:44 AM
   WBC
   12.2
   12.2
   12.5
   11.5
   11.5
   Hct
   26.6
   25.7
   28.2
   30.5
   30.5
   Plt
   282
   292
   308
   347
   343
   Cr
   0.8
   0.9
   0.9
   0.9
   TropT
   0.18
   TCO2
   31
   30
   29
   30
   Glucose
   157
   124
   187
   173
   Other labs: PT / PTT / INR:15.1/28.1/1.3, CK / CKMB /
   Troponin-T:23/4/0.18, ALT / AST:22/21, Alk Phos / T Bili:107/1.1,
   Differential-Neuts:91.9 %, Lymph:3.2 %, Mono:4.7 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:370 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   83 yr old woman tx from OSH for resp failure, ? endobronchial lesion
   1.            Resp Failure: chronic post op, with CHF, PNA, COPD, and
   malacia all in the DDX. Now on PSV, post rigid try to lower PSV and get
   to SBT to assess what she can do on her own.
   2.             Right Lung endobronchial lesion:  NOT confirmed,
   narrowing not mass by rigid today, no need for [**Last Name (LF) **], [**First Name3 (LF) 124**] need follow
   up with IP
   3.           AVR: unclear post op function, plan echo, no acute
   diuresis,
   4.            Afib: , off, convert to po b blockers Amio
   5.            Anemia: chest tube possible source of blood loss, guaic
   all stools, serial HCTs, got one unit last PM- trend
   6.             Bacteremia: single + blood cx on [**6-19**] at OSH- now
   positive here, pull picc, get 2^nd PIV, if not CVL for 48 hrs until
   PICC. Check LUE US to rule out clot  ECHO given bacteremia and fresh
   valve.
   ICU Care
   Nutrition: NPO for bronch
   Glycemic Control:
   Lines:
   PICC Line - [**2113-7-1**] 02:00 PM
   Arterial Line - [**2113-7-1**] 09:42 PM
   18 Gauge - [**2113-7-2**] 06:51 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: chlorhex, HOB
   Communication:  with dtrs- hopefully will be by today
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2113-07-04 05:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR RECEIVED - At [**2113-7-3**] 09:00 AM
 BLOOD CULTURED - At [**2113-7-3**] 10:00 AM
 ULTRASOUND - At [**2113-7-3**] 11:30 AM
   US left lower arm.
 ULTRASOUND - At [**2113-7-3**] 01:30 PM
   US left neck and arm
 TRANSTHORACIC ECHO - At [**2113-7-3**] 02:15 PM
 INVASIVE VENTILATION - STOP [**2113-7-3**] 03:25 PM
 BLOOD CULTURED - At [**2113-7-3**] 04:00 PM
 NASAL SWAB - At [**2113-7-3**] 04:00 PM
 PICC LINE - STOP [**2113-7-3**] 04:20 PM
   tripple lumen PICC line. Back flow from all three ports noted.
   [**2113-7-3**]
   - Na normalized so D5W stopped
   - CXR read from [**2113-7-2**] with small ptx. Chest tubes placed to suction.
   Repeat CXR showed continued PTX, but smaller.
   - Rigid and flex bronch:
   1. No significant central airway obstruction, narrowing or collapse.
   2. Successful transbronchial needle aspiration of station 11R.
   3. Balloon dilation of right middle lobe orifice.
   - ECHO without obvious vegetation, but can get TEE if suspicion is
   high.
   - U/S of Left Upper Extremity showed no DVT.
   - Extubated without complication yesterday
   - OSH PICC was pulled
   - OSH Micro showed 1 of 2 bottles of Staph Epidermidis (likely
   contaminant), no other positive blood cx.
   - Blood cx here from [**7-1**]: GRAM POSITIVE COCCUS(COCCI) IN PAIRS AND
   CLUSTERS. -> started on Vanc/Meropenem.
   - Hypertensive to the 180s requiring 2 doses of 20mg hydral
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-7-3**] 07:57 PM
   Meropenem - [**2113-7-4**] 12:48 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-7-3**] 04:00 PM
   Hydralazine - [**2113-7-3**] 06:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-7-4**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.7
   HR: 63 (60 - 65) bpm
   BP: 154/48(84) {124/39(68) - 185/108(116)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 65 Inch
             Total In:
                                                                  1,794 mL
                                                                    157 mL
   PO:
             TF:
                                                                     26 mL
   IVF:
                                                                  1,597 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    220 mL
   Urine:
                                                                  1,540 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     54 mL
                                                                    -64 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,527 (275 - 1,527) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: 7.46/39/81.[**Numeric Identifier 252**]/26/3
   Ve: 5.9 L/min
   PaO2 / FiO2: 135
   Physical Examination
   Gen: NAD, AOx2
   HEENT: MMM, PERRLA
   Cardiovascular: Systolic mm
   Respiratory / Chest: Bronchial BS w/ expiratory wheezing throughout,
   wet cough, 2 R chest tubes in place with minimal bloody drainage
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: B/l pitting edema to mid calf
   Skin:  Warm
   Neurologic: Responds to questions and commands.
   Labs / Radiology
   452 K/uL
   10.9 g/dL
   86 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   39 mg/dL
   109 mEq/L
   143 mEq/L
   34.9 %
   13.3 K/uL
        [image002.jpg]
                             [**2113-7-1**]  08:51 PM
                             [**2113-7-2**]  06:26 AM
                             [**2113-7-2**]  06:42 AM
                             [**2113-7-2**]  11:46 AM
                             [**2113-7-2**]  03:57 PM
                             [**2113-7-3**]  04:23 AM
                             [**2113-7-3**]  04:44 AM
                             [**2113-7-3**]  02:21 PM
                             [**2113-7-3**]  03:08 PM
                             [**2113-7-4**]  02:58 AM
   WBC
   12.5
   11.5
   11.5
   13.3
   Hct
   28.2
   30.5
   30.5
   32.7
   34.9
   Plt
   [**Telephone/Fax (3) 7254**]52
   Cr
   0.9
   0.9
   0.9
   0.7
   0.8
   TCO2
   31
   30
   29
   30
   29
   Glucose
   124
   187
   173
   129
   86
   Other labs: PT / PTT / INR:13.7/26.2/1.2, CK / CKMB /
   Troponin-T:23/4/0.18, ALT / AST:22/21, Alk Phos / T Bili:107/1.1,
   Differential-Neuts:91.9 %, Lymph:3.2 %, Mono:4.7 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:370 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
[**2113-7-1**] 2:53 pm BLOOD CULTURE      Source: Line-PICC.
   Blood Culture, Routine (Preliminary):
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET ONLY.
         SENSITIVITIES PERFORMED ON REQUEST..
   Anaerobic Bottle Gram Stain (Final [**2113-7-3**]):
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] @ 0800AM, [**2113-7-3**].
         GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
   Assessment and Plan
   83F s/p AVR, with post-op course complicated by respiratory failure [**2-13**]
   pulmonary secretions, recurrent bilateral pleural effusions requiring
   thoracentesis, and concern for mass compressing right mainstem
   bronchus.
   .
   # Respiratory failure - likely multifactorial, with low lung volumes,
   significant secretions that she is having difficulty clearing now that
   she is extubated. Also expiratory wheezing/rhonchi on exam. She does
   have small PTX at R apex with chest tubes in place that appears to be
   improving. CT drainage minimal over last 24 hours.
   - she has completed >7 day course of meropenem to cover for HAP, will
   discontinue now, and reculture if spikes
   - f/u  sputum culture.
   - steroid taper (no known copd diagnosis) -> continue methylpred 40mg
   [**Hospital1 **] today.
   - chest tube to suction given PTX, follow daily CXR, thoracics recs
   - aggresive pulmonary toilet, chest PT
   - diuresis w/ IV lasix bolus today, goal 1-2L neg
   - trial of BiPAP if deteriorates
   .
   # Bacteremia - Single OSH blood culture dated [**6-19**] from "line" reported
   +staph epi sensitive to vanc/tetracycline on [**6-25**].  no subsequent blood
   cultures available. Now [**7-1**] bcx growing GPC in pairs/chains. No
   stigmata of endocarditis at this time. TTE neg for veg on [**2113-7-3**]. OSH
   PICC line d/c
d on [**2113-7-3**]
   - Send surveillance bcx
   - f/u blood cx sensitivities today
   .
   # S/p AVR with CHF
 tissue valve. mild volume overload on CXR, and
   clinically volume overloaded
   - resume lasix, goal I/O -1L
   - continue metoprolol 75 mg po TID
   - continue aspirin now, up titrated on ACE yesterday
   - resume coumadin, goal INR [**2-14**]
   # H/o AFib - on amiodarone as outpatient, though not receiving this at
   time of transfer.  currently in normal sinus rythym on metoprolol.
   - restarted home regimen of amiodarone 200mg po qdaily [**2113-7-3**].
   - continue metoprolol for now (home dose of Toprolol 200mg daily)
   - resume coumadin
   # Anemia - baseline HCT unknown, per family, pt with h/o "bleeding from
   GI system" which was evaluated by GI ~2y ago, with no clear source.
   HCT 32 by report upon discharge, 26 -> 28 with s/p transfusion.  HCt
   improved this morning with only minimal drainage.
   - guaiac stools.
   - follow chest tube output.
   - follow daily HCT
   # CRI - by report, currently cre 0.8.  with metabolic alkalosis per
   ABG.  no clear diarrhea.  not clearly contracted on exam, though has
   been getting lasix, likely poor nutrition. Has remained stable.
   - follow with [**Hospital1 **] lytes while diuresing
   # hypernatremia - likely volume depleted given intubation; improved
   with D5W.
   - follow sodium with diuresis
   # DM - no h/o DM per family, but on SSI at OSH, likely [**2-13**] steroids.
   FSG controlled.
   - continue HISS.
   - wean SSI as steroids are tapered.
   #  HTN
 Persistent elevated BP off nicardipine gtt.
   - Titrate up metoprolol, lisinopril back to home doses as tolerated
   - Cont amlodipine, increase to 10mg daily
   - diuresis today
   - d/c a-line
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-7-1**] 09:42 PM
 d/c today
   18 Gauge - [**2113-7-2**] 06:51 PM
   20 Gauge - [**2113-7-3**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2113-07-04 10:09:00 Physician Attending Progress Note
Chief Complaint: resp failure,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR RECEIVED - At [**2113-7-3**] 09:00 AM
 BLOOD CULTURED - At [**2113-7-3**] 10:00 AM
 ULTRASOUND - At [**2113-7-3**] 11:30 AM
   US left lower arm.
 ULTRASOUND - At [**2113-7-3**] 01:30 PM
   US left neck and arm Neg for DVT
 TRANSTHORACIC ECHO - At [**2113-7-3**] 02:15 PM
 INVASIVE VENTILATION - STOP [**2113-7-3**] 03:25 PM
 BLOOD CULTURED - At [**2113-7-3**] 04:00 PM
 NASAL SWAB - At [**2113-7-3**] 04:00 PM
 PICC LINE - STOP [**2113-7-3**] 04:20 PM
   tripple lumen PICC line. Back flow from all three ports noted.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2113-7-4**] 07:30 AM
   Vancomycin - [**2113-7-4**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-7-3**] 04:00 PM
   Hydralazine - [**2113-7-3**] 06:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-7-4**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 63 (60 - 65) bpm
   BP: 168/48(90) {140/39(68) - 180/69(105)} mmHg
   RR: 23 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Height: 65 Inch
             Total In:
                                                                  1,794 mL
                                                                    501 mL
   PO:
             TF:
                                                                     26 mL
   IVF:
                                                                  1,597 mL
                                                                    501 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    400 mL
   Urine:
                                                                  1,540 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     54 mL
                                                                    101 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 1,527 (275 - 1,527) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: 7.46/39/81.[**Numeric Identifier 252**]/26/3
   Ve: 5.9 L/min
   PaO2 / FiO2: 135
   Physical Examination
   Gen: sitting up in bed, mild resp distress
   HEENT: dry o/p
   CV: RR sys ej murmur [**2-17**]
   Chest: coarse insp rales and exp wheezes
   Abd: soft NT
   Ext:2+ edema
   Labs / Radiology
   10.9 g/dL
   452 K/uL
   86 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   39 mg/dL
   109 mEq/L
   143 mEq/L
   34.9 %
   13.3 K/uL
        [image002.jpg]
                             [**2113-7-1**]  08:51 PM
                             [**2113-7-2**]  06:26 AM
                             [**2113-7-2**]  06:42 AM
                             [**2113-7-2**]  11:46 AM
                             [**2113-7-2**]  03:57 PM
                             [**2113-7-3**]  04:23 AM
                             [**2113-7-3**]  04:44 AM
                             [**2113-7-3**]  02:21 PM
                             [**2113-7-3**]  03:08 PM
                             [**2113-7-4**]  02:58 AM
   WBC
   12.5
   11.5
   11.5
   13.3
   Hct
   28.2
   30.5
   30.5
   32.7
   34.9
   Plt
   [**Telephone/Fax (3) 7254**]52
   Cr
   0.9
   0.9
   0.9
   0.7
   0.8
   TCO2
   31
   30
   29
   30
   29
   Glucose
   124
   187
   173
   129
   86
   Other labs: PT / PTT / INR:13.7/26.2/1.2, CK / CKMB /
   Troponin-T:23/4/0.18, ALT / AST:22/21, Alk Phos / T Bili:107/1.1,
   Differential-Neuts:91.9 %, Lymph:3.2 %, Mono:4.7 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:370 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 BACTEREMIA
 HYPERTENSION, BENIGN
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   83 yr old woman tx from OSH for resp failure, ? endobronchial lesion
   1.            Resp Failure: chronic post op, with CHF, PNA, COPD, and
   malacia all in the DDX. Now extubated but req 50% face mask, main
   interventions today will be pulm toilet, and dry to diuresis
 echo
   shows high PCW
   [**Month (only) 8**] need BIPAP if sats decrease but limits pulm toilet
   2.             Right Lung endobronchial lesion:  NOT confirmed,
   narrowing not mass by rigid today, no need for [**Last Name (LF) **], [**First Name3 (LF) 124**] need follow
   up with IP
   3.           AVR: tissue valve
   4.            Afib: , off, convert to po b blockers Amio
   5.            Anemia: chest tube possible source of blood loss, guaic
   all stools, serial HCTs, got one unit last PM- trend
   6.             Bacteremia: single + blood cx on [**6-19**] at OSH- now
   positive here, await sensi, puledl picc, get 2nd PIV, TTE no vegg- may
   need TEE if persistent + cx but not stable for TEE at this pint anyway
   without re- intubation
   ICU Care
   Nutrition: speech and swallow
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-7-1**] 09:42 PM
   18 Gauge - [**2113-7-2**] 06:51 PM
   20 Gauge - [**2113-7-3**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 40

2113-07-05 00:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - diuresed well with lasix dose (net I/O was negative 1 L)
   - low dose warfarin added
   - d/c'ed meropenem
   - no pneumo noted definitively on cxr [**7-4**]
   - arterial line d/c'ed
   - will f/u blood cx from [**7-4**]
   - Thoracic surgery requested repeat CXR, scheduled for 10am today.
   Also, stated that they switched chest tube to water seal and will
   likely pull chest tube after reevaluation in 4 hrs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2113-7-4**] 07:30 AM
   Vancomycin - [**2113-7-4**] 07:55 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-7-5**] 12:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.6
C (96
   HR: 62 (60 - 65) bpm
   BP: 144/51(71) {124/38(65) - 175/71(88)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Height: 65 Inch
             Total In:
                                                                    940 mL
                                                                      8 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    840 mL
                                                                      8 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                     30 mL
   Urine:
                                                                  1,710 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,060 mL
                                                                    -22 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General: awake, alert
   HEENT: sclera anicteric, PERRL, MM dry
   Neck: supple, JVP not elevated, no LAD
   Lungs: CTA anteriorly, no wheezes, rales, +bronchial breath sounds.
   CHEST: healing median sternotomy scar, c/d/i.  right lower chest sites
   of chest tubes x2 (mid axillary line, and mid-clavicular line), both
   c/d/i.
   CV: Regular rate, normal S1, [**3-17**] HSM @ LSB, no rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, trace B LE edema.
   Neuro: PERRL, withdraws to pain in bilateral upper extremities.
   Labs / Radiology
   507 K/uL
   11.3 g/dL
   135 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.4 mEq/L
   39 mg/dL
   107 mEq/L
   145 mEq/L
   36.8 %
   11.7 K/uL
        [image002.jpg]
   PT: 13.8
   PTT: 26.4
   INR: 1.2
                             [**2113-7-2**]  06:26 AM
                             [**2113-7-2**]  06:42 AM
                             [**2113-7-2**]  11:46 AM
                             [**2113-7-2**]  03:57 PM
                             [**2113-7-3**]  04:23 AM
                             [**2113-7-3**]  04:44 AM
                             [**2113-7-3**]  02:21 PM
                             [**2113-7-3**]  03:08 PM
                             [**2113-7-4**]  02:58 AM
                             [**2113-7-4**]  04:30 PM
   WBC
   12.5
   11.5
   11.5
   13.3
   Hct
   28.2
   30.5
   30.5
   32.7
   34.9
   Plt
   [**Telephone/Fax (3) 7254**]52
   Cr
   0.9
   0.9
   0.9
   0.7
   0.8
   0.9
   TCO2
   30
   29
   30
   29
   Glucose
   124
   187
   173
   129
   86
   140
   Other labs: PT / PTT / INR:13.7/26.2/1.2, CK / CKMB /
   Troponin-T:23/4/0.18, ALT / AST:22/21, Alk Phos / T Bili:107/1.1,
   Differential-Neuts:91.9 %, Lymph:3.2 %, Mono:4.7 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:370 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   83F s/p AVR, with post-op course complicated by respiratory failure [**2-13**]
   pulmonary secretions, recurrent bilateral pleural effusions requiring
   thoracentesis, and concern for mass compressing right mainstem
   bronchus.
   .
   # respiratory failure - likely multifactorial, with clear concern for
   hospital acquired pneumonia given leukocytosis and thick secretions on
   previous bronchoscopy.  unclear why she is on meropenem only, as  no
   sensitivities from prior bronchoscopy available presently.  ddx also
   concerning for post-obstructive PNA vs collapse, mild volume overload,
   PTX, and PE, though she has been on coumadin (without clearly
   therapeutic INRs).
   - started vancomycin, meropenem to cover for HAP pending OSH
   sensitivities.
   - meropenem d/c
ed [**2113-7-4**]
   - check CT CHEST w/ contrast, +mucomyst.
   - withdraw ETT 2 cm and repeat CXR as appears too far down.
   - s/p extubation, volume overload
 diuresing well with lasix now
   - aggresive pulmonary toilet.
   - taper steroids (no known copd diagnosis) -> methylpred 40mg [**Hospital1 **].
   - f/u chest tube output (no leak at present, no crepitus).  If CXR
   stable, can use water seal as per thoracics.
   # s/p AVR with CHF - mild volume overload on CXR, but otherwise,
   clinically euvolemic.  last lasix dose at noon today.  given prosthetic
   AVR, and acute bleeding, with plan for bronchoscopy, will hold
   anticoagulation for now.
   - initially held on lasix for now given contrast load above.
   - continue metoprolol 50mg po bid and titrate up prn.
   - repeat TTE here given ?bacteremia.
   - continue aspirin now, ACE in AM.
   - wean off nicardipine as able.
   .
   # h/o AFIB - on amiodarone as outpatient, though not receiving this at
   time of transfer.  currently in normal sinus rythym on metoprolol.
   - restart home regimen of amiodarone 200mg po qdaily in am.
   - continue metoprolol for now.
   - hold coumadin for now (CHADs = [**2-14**]), given falling HCT and plan for
   bronchoscopy with biopsy.
   .
   # ?bacteremia - single OSH blood culture dated [**6-19**] from "line" reported
   +staph on [**6-25**].  no subsequent blood cultures available.  no stigmata
   of endocarditis at present, but given new aortic valve, will proceed as
   follows:
   - check blood cultures from line and peripherally now.
   - place PIVs, and remove PICC once have additional access (PICC placed
   [**6-8**] at OSH).
   - obtain subsequent OSH culture data (none sent with patient)
   - repeat TTE to evaluate for vegetation.
   .
   # anemia - baseline HCT unknown, per family, pt with h/o "bleeding from
   GI system" which was evaluated by GI ~2y ago, with no clear source.
   HCT 32 by report upon discharge, now 26.  no recent groin access (s/p
   LHC [**5-31**]) to suggest RP bleed.  most concerning for ongoing bleeding
   from right hemothorax.
   - guaic stools.
   - follow chest tube output.
   - repeat HCT tonight, if trending down (<24), will transfuse 2U PRBC.
   - check hemolysis labs (given valve).
   .
   # CRI - by report, currently cre 0.8.  with metabolic alkalosis per
   ABG.  no clear diarrhea.  not clearly contracted on exam, though has
   been getting lasix.
   - wean Vt from 650 to 550.
   - repeat ABG.
   - hold lasix for tonight.
   .
   # hypernatremia - likely volume depleted given intubation.
   - give 200cc FWB Q6H.
   - trend NA in AM.
   .
   # DM - no h/o DM per family, but on SSI at OSH, likely [**2-13**] steroids.
   will continue here.
   - continue HISS.
   - wean SSI as steroids are tapered.
   .
   #  HTN - requiring nicardipine gtt at OSH, will wean here and titrate
   up metoprolol an amiodarone prn.
   .
   # FEN: No need for IVF.
   - replete phos.
   - d/c TPN (unclear why started given pt was tolerating PO diet earlier
   this week, and ?bacteremia), and obtain nutrition consult for TF.
   - follow bowel regimen closley.
   .
   # Prophylaxis: SC heparin, PPI.
   # Access: left PICC ([**6-8**]), will replace as above once able to place 2
   PIVs.
   # Code: FULL CODE
   # Communication: Patient, daughters [**Name (NI) 7213**] [**Name (NI) 7214**] [**Telephone/Fax (1) 7215**], [**First Name8 (NamePattern2) 7216**]
   [**Known lastname 7217**] [**Telephone/Fax (1) 7218**].  Cardiologist [**First Name5 (NamePattern1) 7219**] [**Last Name (NamePattern1) 7220**] [**Telephone/Fax (1) 7221**].
   .
   # Disposition: likely floor transfer today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-7-3**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Possibly to floor today

2113-07-05 10:09:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2113-7-4**] 08:14 PM
   CXr without PTX, put on H20 seal by Thoracics this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2113-7-4**] 07:30 AM
   Vancomycin - [**2113-7-4**] 07:55 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2113-7-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-7-5**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.7
C (96.2
   HR: 60 (60 - 63) bpm
   BP: 142/45(69) {136/38(65) - 175/63(88)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Height: 65 Inch
             Total In:
                                                                    940 mL
                                                                    101 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    840 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    425 mL
   Urine:
                                                                  1,710 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,060 mL
                                                                   -324 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   Gen: sitting up in bed, mild resp distress
   HEENT: dry o/p
   CV: RR sys ej murmur [**2-17**]
   Chest:  bibasilar rales (less than yest) and decreased wheezes comp
   with yesterday
   Abd: soft NT
   Ext:2+ edema
   Neuro: answering questions
   Labs / Radiology
   11.3 g/dL
   507 K/uL
   135 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.4 mEq/L
   39 mg/dL
   107 mEq/L
   145 mEq/L
   36.8 %
   11.7 K/uL
        [image002.jpg]
                             [**2113-7-2**]  06:42 AM
                             [**2113-7-2**]  11:46 AM
                             [**2113-7-2**]  03:57 PM
                             [**2113-7-3**]  04:23 AM
                             [**2113-7-3**]  04:44 AM
                             [**2113-7-3**]  02:21 PM
                             [**2113-7-3**]  03:08 PM
                             [**2113-7-4**]  02:58 AM
                             [**2113-7-4**]  04:30 PM
                             [**2113-7-5**]  03:11 AM
   WBC
   11.5
   11.5
   13.3
   11.7
   Hct
   30.5
   30.5
   32.7
   34.9
   36.8
   Plt
   [**Telephone/Fax (3) 7280**]07
   Cr
   0.9
   0.9
   0.7
   0.8
   0.9
   0.9
   TCO2
   30
   29
   30
   29
   Glucose
   187
   173
   129
   86
   140
   135
   Other labs: PT / PTT / INR:13.8/26.4/1.2, CK / CKMB /
   Troponin-T:23/4/0.18, ALT / AST:22/21, Alk Phos / T Bili:107/1.1,
   Differential-Neuts:91.9 %, Lymph:3.2 %, Mono:4.7 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:370 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   CXR:
   Assessment and Plan
 BACTEREMIA
 HYPERTENSION, BENIGN
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   83 yr old woman tx from OSH for resp failure post op AVR
   1.                    Resp Failure: chronic post op, with CHF, PNA,
   COPD, and malacia all in the DDX.
   Extubated x 48 hours now on nasal cannula, main interventions today
   will be pulm toilet,  ongoing diuresis
 echo shows high PCW
 try for
   another liter negative today
   2.             Right Lung endobronchial lesion:  NOT confirmed,
   narrowing not mass by rigid today, no need for [**Last Name (LF) **], [**First Name3 (LF) 124**] need follow
   up with IP
   3.             AVR: tissue valve
 echo shows higher gradient than
   would expect post op Needs outpt follow up
   4.            Afib: rate po b blockers Amio, restarted coumadin
   5.            Anemia: chest tube possible source of blood loss, guaic
   all stools, serial HCTs, got one unit last PM- trend
   6.             Bacteremia: single + blood cx on [**6-19**] at OSH- now
   positive here, 2 weeks Vanco planned with surveillance cx
   ICU Care
   Nutrition: speech and swallow
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-7-3**] 12:30 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   Communication:  with daughters
   [**Name (NI) 156**] status: Full code
   Disposition :Transfer to floor